US08729102B2
C) 4-(5-methoxy-2H-indazol-2-yl)phenol
Under a hydrogen atmosphere, a mixture of 2-[4-(benzyloxy)phenyl]-5-methoxy-2H-indazole (160 mg), 10% palladium/carbon (containing water (50%), 52 mg), methanol (10 mL) and THF (5 mL) was stirred at room temperature for 1 hr. The catalyst was removed by filtration, and the obtained filtrate was concentrated under reduced pressure to give the title compound (121 mg).

reactant | 2-[4-(benzyloxy)phenyl]-5-methoxy-2H-indazole | 160 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1N=C2C=CC(=CC2=C1)OC | C21H18N2O2
reactant | methanol | 10 mL | CO | CH4O
catalyst | palladium/carbon | 52 mg | [Pd] | Pd
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(5-methoxy-2H-indazol-2-yl)phenol | 121 mg | COC1=CC2=CN(N=C2C=C1)C1=CC=C(C=C1)O | C14H12N2O2
